US06005128
Dry hydrogen chloride gas was blown into a 100 ml ether solution of 4.17 g of 1,1-bis(diethylamino)-3,4-diphenyl-2,5-bis(trimethylsilyl)silole at -78° C. for one hour. After distilling ether off, dichloromethane was added, and then 1.3 ml of triethylamine and 1 ml of diethylamine were added in order. After continuing stirring at room temperatures for 20 hours, the solvent was distilled off, and dry hexane was added to remove insoluble matters by filtering. Then, hexane was distilled off from the filtrate to obtain a product. This product was refined by distillation to obtain 3.0 g of 1-chloro-1-diethylamino-3,4-diphenyl-2,5-bis(trimethylsilyl)silole. The yield was 78%.

reactant | hydrogen chloride | Cl | ClH
reactant | 1,1-bis(diethylamino)-3,4-diphenyl-2,5-bis(trimethylsilyl)silole | 4.17 g | C(C)N([Si]1(C(=C(C(=C1[Si](C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1)[Si](C)(C)C)N(CC)CC)CC | C30H48N2Si3
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-chloro-1-diethylamino-3,4-diphenyl-2,5-bis(trimethylsilyl)silole | 3.0 g, yield was 78% | Cl[Si]1(C(=C(C(=C1[Si](C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1)[Si](C)(C)C)N(CC)CC | C26H38ClNSi3
